US08580794B2
3-chloro-4-(2-(2-methoxyethoxy)ethylthio)benzenesulfonamide
In a 25 ml, microwave tube was added sodium hydride (0.6 g) in tetrahydrofuran (10 mL) to give a suspension. 2-(2-Methoxyethoxy)ethanethiol (1 g) was added slowly. After stirring for 30 minutes, 3-chloro-4-fluorobenzenesulfonamide (1.54 g) dissolved in 10 mL tetrahydrofuran was added slowly. The mixture was heated at 110° C. for 30 minutes in a Biotage Initiator microwave reactor. Water was added, the product was extracted with ether (20 mL×3), dried over Na2SO4, filtered, and the solvent was removed under reduced pressure. The crude product was purified by flash chromatography on silica eluting with 0-25% ethyl acetate in hexane.

reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | 2-(2-Methoxyethoxy)ethanethiol | 1 g | COCCOCCS | C5H12O2S
reactant | 3-chloro-4-fluorobenzenesulfonamide | 1.54 g | ClC=1C=C(C=CC1F)S(=O)(=O)N | C6H5ClFNO2S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-chloro-4-(2-(2-methoxyethoxy)ethylthio)benzenesulfonamide | ClC=1C=C(C=CC1SCCOCCOC)S(=O)(=O)N | C11H16ClNO4S2
